US08497264B2
To a solution of (2-tert-butoxy-2-oxoethyl)zinc(II) chloride (0.5M in Et2O; 670 ml, 335 mmol) at 0° C. was added drop wise a solution of 7-bromo-3-chloro-1-fluoro-5H-chromeno[2,3-c]pyridin-5-one (55 g, 167 mmol) in THF (30 mL). The resulting reaction mixture was stirred at 0° C. for 1 h. The reaction mixture was quenched with aqueous, saturated NH4Cl solution and extracted with EtOAc. The organic extracts were dried over Na2SO4 and concentrated under reduced pressure to afford tert-butyl 2-(7-bromo-3-chloro-1-fluoro-5-hydroxy-5H-chromeno[2,3-c]pyridin-5-yl)acetate (66.0 g, 148 mmol, 89% yield) as a yellow solid.

reactant | (2-tert-butoxy-2-oxoethyl)zinc(II) chloride | 335 mmol, 0.5M, 670 ml | [Cl-].C(C)(C)(C)OC(C[Zn+])=O
reactant | 7-bromo-3-chloro-1-fluoro-5H-chromeno[2,3-c]pyridin-5-one | 167 mmol, 55 g | BrC=1C=C2C(C3=C(C(=NC(=C3)Cl)F)OC2=CC1)=O | C12H4BrClFNO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | tert-butyl 2-(7-bromo-3-chloro-1-fluoro-5-hydroxy-5H-chromeno[2,3-c]pyridin-5-yl)acetate | 148 mmol, 66.0 g, 89% yield | BrC=1C=C2C(C3=C(C(=NC(=C3)Cl)F)OC2=CC1)(O)CC(=O)OC(C)(C)C | C18H16BrClFNO4
